US07696200B2
A mixture of (4-bromo-2-nitro-phenyl)-methanol (1.85 g, 7.97 mmol), iron powder (2.23 g, 39.9 mmol), ammonium chloride (213 mg, 3.99 mmol), ethanol (20 mL), and water (10 mL) was heated at 75° C. for 1 h, then after cooling filtered through a pad of diatomaceous earth. The filtrate was evaporated and the residue partitioned between ethyl acetate and water, the organic layer was washed with brine, dried (MgSO4), and evaporated to produce (2-amino-4-bromo-phenyl)-methanol (1.53 g, 90%). Off-white solid, MS (EI)=201.0 (M+).

reactant | (4-bromo-2-nitro-phenyl)-methanol | 7.97 mmol, 1.85 g | BrC1=CC(=C(C=C1)CO)[N+](=O)[O-] | C7H6BrNO3
reactant | ammonium chloride | 3.99 mmol, 213 mg | [Cl-].[NH4+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
catalyst | iron | 39.9 mmol, 2.23 g | [Fe] | Fe
solvent | water | 10 mL | O | H2O
product | (2-amino-4-bromo-phenyl)-methanol | 1.53 g, 90% | NC1=C(C=CC(=C1)Br)CO | C7H8BrNO
